US06008229
To a solution of 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)pyrrole (1.0 g) in tetrahydrofuran (10 ml) was added N-chlorosuccinimide (292 mg) at ambient temperature, and the mixture was allowed to stand for 1 day. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (10:1, V/V) to give 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-chloropyrrole (1.0 g) as an oil.

reactant | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)pyrrole | 1.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C=CC=C1)Cl | C27H27Cl2NOSi
reactant | N-chlorosuccinimide | 292 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-chloropyrrole | 1.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)Cl)Cl | C27H26Cl3NOSi
